US06479424B1
2-(3,5-di-t-butylphenyl)-5,5,8,8 tetramethyl-5,6,7,8-tetrahydrobenz(f)indene (Ligand M)
A 100 mL round bottom flask fit with a magnetic stirrer was charged with 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indene (4.0 g, 0.018 mol), 3,5-di-t-butyl-bromobenzene (7.0 g, 0.026 mol), tri-o-toylphosphine (2.46 g, 0.0081 mol), triethylamine (4.3 mL, 0.31 mol), and dimethylformamide (60 mL, anhydrous, Aldrich). The solution was degassed, charged with palladium(II) acetate (00876 g, 0.0039 mol) and heated to 60° C. for 93 hours. At that point, after degassing ng again, additional palladium(II) acetate (0.876 g, 0.0039 mol) was added and heated to 60° C. for a total of 161 hours. The reaction mixture was dissolved in 200 mL diethyl ether, washed with 5% HCl (3×100 mL), sodium bicarbonate solution (3×100 mL), water (3×100 mL), and dried over anhydrous magnesium sulfate. The resulting crude oil weighed 11.0 g after rotary evaporation. This material was purified by column chromatography with silica/hexane followed by recrystallization from pentane to yield a fraction (0.8 g) enriched in the desired product. The mother liquid was resubmitted to the coupling conditions. A 50 mL round bottom flask was charged with the mother liquor (7.7 g), tri-o-toylphosphine (2.46 g, 0.0081 mol), triethylamine (4.3 mL, 0.31 mol), and dimethylformamide (35 mL, anhydrous, Aldrich). The solution was degassed, charged with palladium(II) acetate (0.876 g, 0.0039 mol) and heated to 60° C. During heating, periodically more reagents were added such that the totals charged were: tri-o-toylphosphine (3.46 g, 0.011 mol), 1,2-bis(diphenylphosphino)ethane (2.05 g, 0.0051 mol) triethylamine (5.3 mL, 0.38 mol), and dimethylformamide (35 mL, anhydrous, Aldrich), and palladium(II) acetate (3.27 g, 0.0145 mol). The reaction was cooled to room temperature, and worked up as above to yield 11.0 g of crude product. The paste was purified by column chromatography on silica/hexane three times, and the combined most enriched fractions gave 2.3 g which was then purified by preparative HPLC to yield 1.7 g of a semisolid paste. The paste was repeatedly recrystallized from methanol/acetone to yield the pure 2-(3,5-di-t-butylphenyl)-5,5,8,8 tetramethyl-5,6,7,8-tetrahydrobenz(f)indene (0.92 g). 1HNMR (CD2Cl2, 500 MHz) δ7.54 (d, J=1.5 Hz, 2H); 7.48 (s, 1H); 7.42 (s, 1H); 7.39 (s, 1H); 7.24 (s, 1H); 3.82 (s, 2H); 1.77 (s, 4H); 1.43 (s, 18H); 1.38 (s, 12H).

reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydrobenz(f)indene | 0.018 mol, 4.0 g | CC1(CCC(C2=CC=3C=CCC3C=C21)(C)C)C | C17H22
reactant | 3,5-di-t-butyl-bromobenzene | 0.026 mol, 7.0 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)Br | C14H21Br
reactant | triethylamine | 0.31 mol, 4.3 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 0.0039 mol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 0.0039 mol, 0.876 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(3,5-di-t-butylphenyl)-5,5,8,8 tetramethyl-5,6,7,8-tetrahydrobenz(f)indene | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C=1CC=2C=C3C(=CC2C1)C(CCC3(C)C)(C)C | C31H42
